US05061726
A mixture of 2-bromomethyl-3-methylbutyl acetate (6 g) and potassium thiocyanate (7.3 g) in dry dimethylformamide (50 ml) was heated at 140° for 2 hours. After cooling, the reaction mixture was poured into water (150 ml) and then extracted with diethylether (3×50 ml). The combined ethereal extracts were washed with water (3×50 ml) before drying over anhydrous magnesium sulphate and evaporation in vacuo. 2-Thiocyanatomethyl-3methylbutyl acetate was obtained and was used without further purification.

reactant | 2-bromomethyl-3-methylbutyl acetate | 6 g | C(C)(=O)OCC(C(C)C)CBr | C8H15BrO2
reactant | potassium thiocyanate | 7.3 g | [S-]C#N.[K+]
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Thiocyanatomethyl-3methylbutyl acetate | C(C)(=O)OCC(C(C)C)CSC#N | C9H15NO2S
